US04026963
Preparation of N-(4-mercaptophenyl)-1,4,5,6,7,7-hexachloro-5-norbornene-2,3-dicarboximide
A 1000 ml 3-neck flask, equipped with a Dean-Stark water trap and a mechanical stirrer, was charged with 102 g (10% molar excess) of chlorendic anhydride, 400 ml toluene and 300 ml of dry dioxane. Thirty-one grams of 4-mercaptoaniline were then added to the resultant solution, whereupon a pale yellow solid formed instantly. The reaction mixture was heated gradually until the solvent began to reflux, at which point the evolution of water commenced and the solid disappeared. About 4.5 ml of water were collected in about 3 hours. Solvent was then distilled to reduce the volume to about one-half its original volume. The resultant solution, when cooled to room temperature, deposited white crystals of the carboximide. The crystals were separated by filtration and dried overnight at room temperature. The melting point of the carboximide was 237°-240° C.

reactant | chlorendic anhydride | 102 g | C12C(C(=O)OC1=O)C3(C(=C(C2(C3(Cl)Cl)Cl)Cl)Cl)Cl | C9H2Cl6O3
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-mercaptoaniline | Thirty-one grams | SC1=CC=C(N)C=C1 | C6H7NS
solvent | water | O | H2O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | N-(4-mercaptophenyl)-1,4,5,6,7,7-hexachloro-5-norbornene-2,3-dicarboximide | SC1=CC=C(C=C1)N1C(=O)C2C3(C(=C(C(C2C1=O)(C3(Cl)Cl)Cl)Cl)Cl)Cl | C15H7Cl6NO2S
